US08871788B2
N-[2-(4-Bromo-phenyl)ethyl]-formamide
4-Bromo-phenethylamine (4.45 g, 22.25 mmol) was dissolved in ethyl formate (100 mL). 5 mg of TsOH was added. The clear colorless solution was heated in an oil bath to reflux for 16 h. The reaction solution was cooled to r.t, passed through a short silica gel plug, rinsed with ethyl acetate. The filtrate was evaporated to yield 5.1 g (100%) of the title compound as a liquid which became a solid on standing. MS: 230 (M+H+).

reactant | 4-Bromo-phenethylamine | 22.25 mmol, 4.45 g | BrC1=CC=C(CCN)C=C1 | C8H10BrN
reactant | TsOH | 5 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | ethyl formate | 100 mL | C(=O)OCC | C3H6O2
product | N-[2-(4-Bromo-phenyl)ethyl]-formamide | 5.1 g, 100% | BrC1=CC=C(C=C1)CCNC=O | C9H10BrNO
